** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-185/sim/jitter-calibration/testbench/tb_jitter_calibration.sch
**.subckt tb_jitter_calibration
R1 CLK GND 1k m=1
**** begin user architecture code

** GENERATED -- variant J05c: 300 cycles, nominal period
** 3.9170 ns, injected period jitter 0.500000% RMS
** (seeded RNG, seed 185005), TR = TF = 1 ns.
VCLK CLK GND pwl(
+ 0.000000n 0 1.500000n 0 2.500000n 1.8 3.454478n 1.8
+ 4.454478n 0 5.408957n 0 6.408957n 1.8 7.362344n 1.8
+ 8.362344n 0 9.315732n 0 10.315732n 1.8 11.278550n 1.8
+ 12.278550n 0 13.241368n 0 14.241368n 1.8 15.209052n 1.8
+ 16.209052n 0 17.176737n 0 18.176737n 1.8 19.136936n 1.8
+ 20.136936n 0 21.097135n 0 22.097135n 1.8 23.063121n 1.8
+ 24.063121n 0 25.029106n 0 26.029106n 1.8 26.973192n 1.8
+ 27.973192n 0 28.917278n 0 29.917278n 1.8 30.874094n 1.8
+ 31.874094n 0 32.830910n 0 33.830910n 1.8 34.783749n 1.8
+ 35.783749n 0 36.736588n 0 37.736588n 1.8 38.697736n 1.8
+ 39.697736n 0 40.658884n 0 41.658884n 1.8 42.640333n 1.8
+ 43.640333n 0 44.621782n 0 45.621782n 1.8 46.570339n 1.8
+ 47.570339n 0 48.518897n 0 49.518897n 1.8 50.476950n 1.8
+ 51.476950n 0 52.435003n 0 53.435003n 1.8 54.387555n 1.8
+ 55.387555n 0 56.340107n 0 57.340107n 1.8 58.291927n 1.8
+ 59.291927n 0 60.243746n 0 61.243746n 1.8 62.199414n 1.8
+ 63.199414n 0 64.155082n 0 65.155082n 1.8 66.109396n 1.8
+ 67.109396n 0 68.063711n 0 69.063711n 1.8 70.041014n 1.8
+ 71.041014n 0 72.018316n 0 73.018316n 1.8 73.976939n 1.8
+ 74.976939n 0 75.935562n 0 76.935562n 1.8 77.892743n 1.8
+ 78.892743n 0 79.849925n 0 80.849925n 1.8 81.821876n 1.8
+ 82.821876n 0 83.793827n 0 84.793827n 1.8 85.746971n 1.8
+ 86.746971n 0 87.700115n 0 88.700115n 1.8 89.660132n 1.8
+ 90.660132n 0 91.620148n 0 92.620148n 1.8 93.568624n 1.8
+ 94.568624n 0 95.517099n 0 96.517099n 1.8 97.491250n 1.8
+ 98.491250n 0 99.465402n 0 100.465402n 1.8 101.435413n 1.8
+ 102.435413n 0 103.405425n 0 104.405425n 1.8 105.383909n 1.8
+ 106.383909n 0 107.362394n 0 108.362394n 1.8 109.317192n 1.8
+ 110.317192n 0 111.271989n 0 112.271989n 1.8 113.232520n 1.8
+ 114.232520n 0 115.193050n 0 116.193050n 1.8 117.125445n 1.8
+ 118.125445n 0 119.057839n 0 120.057839n 1.8 121.016456n 1.8
+ 122.016456n 0 122.975073n 0 123.975073n 1.8 124.934851n 1.8
+ 125.934851n 0 126.894628n 0 127.894628n 1.8 128.832233n 1.8
+ 129.832233n 0 130.769838n 0 131.769838n 1.8 132.740322n 1.8
+ 133.740322n 0 134.710806n 0 135.710806n 1.8 136.653108n 1.8
+ 137.653108n 0 138.595410n 0 139.595410n 1.8 140.541176n 1.8
+ 141.541176n 0 142.486943n 0 143.486943n 1.8 144.420930n 1.8
+ 145.420930n 0 146.354918n 0 147.354918n 1.8 148.308429n 1.8
+ 149.308429n 0 150.261940n 0 151.261940n 1.8 152.213858n 1.8
+ 153.213858n 0 154.165776n 0 155.165776n 1.8 156.128067n 1.8
+ 157.128067n 0 158.090357n 0 159.090357n 1.8 160.040565n 1.8
+ 161.040565n 0 161.990772n 0 162.990772n 1.8 163.945780n 1.8
+ 164.945780n 0 165.900788n 0 166.900788n 1.8 167.850475n 1.8
+ 168.850475n 0 169.800161n 0 170.800161n 1.8 171.755610n 1.8
+ 172.755610n 0 173.711059n 0 174.711059n 1.8 175.663165n 1.8
+ 176.663165n 0 177.615272n 0 178.615272n 1.8 179.569407n 1.8
+ 180.569407n 0 181.523541n 0 182.523541n 1.8 183.465420n 1.8
+ 184.465420n 0 185.407299n 0 186.407299n 1.8 187.364660n 1.8
+ 188.364660n 0 189.322022n 0 190.322022n 1.8 191.277619n 1.8
+ 192.277619n 0 193.233216n 0 194.233216n 1.8 195.168611n 1.8
+ 196.168611n 0 197.104005n 0 198.104005n 1.8 199.056153n 1.8
+ 200.056153n 0 201.008300n 0 202.008300n 1.8 202.952908n 1.8
+ 203.952908n 0 204.897516n 0 205.897516n 1.8 206.858229n 1.8
+ 207.858229n 0 208.818942n 0 209.818942n 1.8 210.785661n 1.8
+ 211.785661n 0 212.752381n 0 213.752381n 1.8 214.706448n 1.8
+ 215.706448n 0 216.660515n 0 217.660515n 1.8 218.618390n 1.8
+ 219.618390n 0 220.576266n 0 221.576266n 1.8 222.535647n 1.8
+ 223.535647n 0 224.495028n 0 225.495028n 1.8 226.432970n 1.8
+ 227.432970n 0 228.370912n 0 229.370912n 1.8 230.328691n 1.8
+ 231.328691n 0 232.286470n 0 233.286470n 1.8 234.219122n 1.8
+ 235.219122n 0 236.151774n 0 237.151774n 1.8 238.122262n 1.8
+ 239.122262n 0 240.092750n 0 241.092750n 1.8 242.045584n 1.8
+ 243.045584n 0 243.998419n 0 244.998419n 1.8 245.935813n 1.8
+ 246.935813n 0 247.873206n 0 248.873206n 1.8 249.813134n 1.8
+ 250.813134n 0 251.753061n 0 252.753061n 1.8 253.722469n 1.8
+ 254.722469n 0 255.691877n 0 256.691877n 1.8 257.640726n 1.8
+ 258.640726n 0 259.589575n 0 260.589575n 1.8 261.562037n 1.8
+ 262.562037n 0 263.534499n 0 264.534499n 1.8 265.496507n 1.8
+ 266.496507n 0 267.458516n 0 268.458516n 1.8 269.399029n 1.8
+ 270.399029n 0 271.339542n 0 272.339542n 1.8 273.300453n 1.8
+ 274.300453n 0 275.261363n 0 276.261363n 1.8 277.220349n 1.8
+ 278.220349n 0 279.179334n 0 280.179334n 1.8 281.141783n 1.8
+ 282.141783n 0 283.104231n 0 284.104231n 1.8 285.052059n 1.8
+ 286.052059n 0 286.999886n 0 287.999886n 1.8 288.946806n 1.8
+ 289.946806n 0 290.893725n 0 291.893725n 1.8 292.856924n 1.8
+ 293.856924n 0 294.820123n 0 295.820123n 1.8 296.779257n 1.8
+ 297.779257n 0 298.738392n 0 299.738392n 1.8 300.706802n 1.8
+ 301.706802n 0 302.675213n 0 303.675213n 1.8 304.649165n 1.8
+ 305.649165n 0 306.623118n 0 307.623118n 1.8 308.594466n 1.8
+ 309.594466n 0 310.565814n 0 311.565814n 1.8 312.529001n 1.8
+ 313.529001n 0 314.492188n 0 315.492188n 1.8 316.449956n 1.8
+ 317.449956n 0 318.407725n 0 319.407725n 1.8 320.382879n 1.8
+ 321.382879n 0 322.358032n 0 323.358032n 1.8 324.310425n 1.8
+ 325.310425n 0 326.262817n 0 327.262817n 1.8 328.231524n 1.8
+ 329.231524n 0 330.200231n 0 331.200231n 1.8 332.163211n 1.8
+ 333.163211n 0 334.126191n 0 335.126191n 1.8 336.089587n 1.8
+ 337.089587n 0 338.052983n 0 339.052983n 1.8 340.025370n 1.8
+ 341.025370n 0 341.997758n 0 342.997758n 1.8 343.960966n 1.8
+ 344.960966n 0 345.924175n 0 346.924175n 1.8 347.891293n 1.8
+ 348.891293n 0 349.858411n 0 350.858411n 1.8 351.817787n 1.8
+ 352.817787n 0 353.777163n 0 354.777163n 1.8 355.718081n 1.8
+ 356.718081n 0 357.658999n 0 358.658999n 1.8 359.619386n 1.8
+ 360.619386n 0 361.579772n 0 362.579772n 1.8 363.543300n 1.8
+ 364.543300n 0 365.506827n 0 366.506827n 1.8 367.459258n 1.8
+ 368.459258n 0 369.411689n 0 370.411689n 1.8 371.350501n 1.8
+ 372.350501n 0 373.289313n 0 374.289313n 1.8 375.246217n 1.8
+ 376.246217n 0 377.203121n 0 378.203121n 1.8 379.166733n 1.8
+ 380.166733n 0 381.130344n 0 382.130344n 1.8 383.085383n 1.8
+ 384.085383n 0 385.040422n 0 386.040422n 1.8 386.990334n 1.8
+ 387.990334n 0 388.940245n 0 389.940245n 1.8 390.896491n 1.8
+ 391.896491n 0 392.852737n 0 393.852737n 1.8 394.812980n 1.8
+ 395.812980n 0 396.773223n 0 397.773223n 1.8 398.726583n 1.8
+ 399.726583n 0 400.679944n 0 401.679944n 1.8 402.641786n 1.8
+ 403.641786n 0 404.603628n 0 405.603628n 1.8 406.557765n 1.8
+ 407.557765n 0 408.511903n 0 409.511903n 1.8 410.457317n 1.8
+ 411.457317n 0 412.402731n 0 413.402731n 1.8 414.374176n 1.8
+ 415.374176n 0 416.345620n 0 417.345620n 1.8 418.300785n 1.8
+ 419.300785n 0 420.255949n 0 421.255949n 1.8 422.234968n 1.8
+ 423.234968n 0 424.213987n 0 425.213987n 1.8 426.182201n 1.8
+ 427.182201n 0 428.150416n 0 429.150416n 1.8 430.102079n 1.8
+ 431.102079n 0 432.053741n 0 433.053741n 1.8 434.020109n 1.8
+ 435.020109n 0 435.986476n 0 436.986476n 1.8 437.950095n 1.8
+ 438.950095n 0 439.913713n 0 440.913713n 1.8 441.887896n 1.8
+ 442.887896n 0 443.862079n 0 444.862079n 1.8 445.827116n 1.8
+ 446.827116n 0 447.792152n 0 448.792152n 1.8 449.754704n 1.8
+ 450.754704n 0 451.717256n 0 452.717256n 1.8 453.676163n 1.8
+ 454.676163n 0 455.635070n 0 456.635070n 1.8 457.600588n 1.8
+ 458.600588n 0 459.566105n 0 460.566105n 1.8 461.529934n 1.8
+ 462.529934n 0 463.493764n 0 464.493764n 1.8 465.445528n 1.8
+ 466.445528n 0 467.397293n 0 468.397293n 1.8 469.349421n 1.8
+ 470.349421n 0 471.301549n 0 472.301549n 1.8 473.272824n 1.8
+ 474.272824n 0 475.244100n 0 476.244100n 1.8 477.187946n 1.8
+ 478.187946n 0 479.131793n 0 480.131793n 1.8 481.080131n 1.8
+ 482.080131n 0 483.028469n 0 484.028469n 1.8 484.993079n 1.8
+ 485.993079n 0 486.957690n 0 487.957690n 1.8 488.907819n 1.8
+ 489.907819n 0 490.857949n 0 491.857949n 1.8 492.814557n 1.8
+ 493.814557n 0 494.771165n 0 495.771165n 1.8 496.711897n 1.8
+ 497.711897n 0 498.652629n 0 499.652629n 1.8 500.611894n 1.8
+ 501.611894n 0 502.571159n 0 503.571159n 1.8 504.531771n 1.8
+ 505.531771n 0 506.492382n 0 507.492382n 1.8 508.430182n 1.8
+ 509.430182n 0 510.367981n 0 511.367981n 1.8 512.324406n 1.8
+ 513.324406n 0 514.280830n 0 515.280830n 1.8 516.245802n 1.8
+ 517.245802n 0 518.210774n 0 519.210774n 1.8 520.172698n 1.8
+ 521.172698n 0 522.134621n 0 523.134621n 1.8 524.102865n 1.8
+ 525.102865n 0 526.071108n 0 527.071108n 1.8 528.016419n 1.8
+ 529.016419n 0 529.961731n 0 530.961731n 1.8 531.922286n 1.8
+ 532.922286n 0 533.882842n 0 534.882842n 1.8 535.852814n 1.8
+ 536.852814n 0 537.822786n 0 538.822786n 1.8 539.770041n 1.8
+ 540.770041n 0 541.717296n 0 542.717296n 1.8 543.677513n 1.8
+ 544.677513n 0 545.637730n 0 546.637730n 1.8 547.607133n 1.8
+ 548.607133n 0 549.576536n 0 550.576536n 1.8 551.537773n 1.8
+ 552.537773n 0 553.499009n 0 554.499009n 1.8 555.461536n 1.8
+ 556.461536n 0 557.424063n 0 558.424063n 1.8 559.382148n 1.8
+ 560.382148n 0 561.340233n 0 562.340233n 1.8 563.311361n 1.8
+ 564.311361n 0 565.282490n 0 566.282490n 1.8 567.237222n 1.8
+ 568.237222n 0 569.191953n 0 570.191953n 1.8 571.155371n 1.8
+ 572.155371n 0 573.118789n 0 574.118789n 1.8 575.063123n 1.8
+ 576.063123n 0 577.007458n 0 578.007458n 1.8 578.966747n 1.8
+ 579.966747n 0 580.926036n 0 581.926036n 1.8 582.891594n 1.8
+ 583.891594n 0 584.857153n 0 585.857153n 1.8 586.822202n 1.8
+ 587.822202n 0 588.787251n 0 589.787251n 1.8 590.747924n 1.8
+ 591.747924n 0 592.708597n 0 593.708597n 1.8 594.669779n 1.8
+ 595.669779n 0 596.630962n 0 597.630962n 1.8 598.593772n 1.8
+ 599.593772n 0 600.556583n 0 601.556583n 1.8 602.537485n 1.8
+ 603.537485n 0 604.518387n 0 605.518387n 1.8 606.477019n 1.8
+ 607.477019n 0 608.435652n 0 609.435652n 1.8 610.399193n 1.8
+ 611.399193n 0 612.362734n 0 613.362734n 1.8 614.320961n 1.8
+ 615.320961n 0 616.279189n 0 617.279189n 1.8 618.240498n 1.8
+ 619.240498n 0 620.201807n 0 621.201807n 1.8 622.159330n 1.8
+ 623.159330n 0 624.116853n 0 625.116853n 1.8 626.080262n 1.8
+ 627.080262n 0 628.043670n 0 629.043670n 1.8 630.000463n 1.8
+ 631.000463n 0 631.957257n 0 632.957257n 1.8 633.917261n 1.8
+ 634.917261n 0 635.877266n 0 636.877266n 1.8 637.834486n 1.8
+ 638.834486n 0 639.791707n 0 640.791707n 1.8 641.750986n 1.8
+ 642.750986n 0 643.710265n 0 644.710265n 1.8 645.668893n 1.8
+ 646.668893n 0 647.627521n 0 648.627521n 1.8 649.591306n 1.8
+ 650.591306n 0 651.555092n 0 652.555092n 1.8 653.510526n 1.8
+ 654.510526n 0 655.465960n 0 656.465960n 1.8 657.423153n 1.8
+ 658.423153n 0 659.380346n 0 660.380346n 1.8 661.331905n 1.8
+ 662.331905n 0 663.283464n 0 664.283464n 1.8 665.234832n 1.8
+ 666.234832n 0 667.186200n 0 668.186200n 1.8 669.173151n 1.8
+ 670.173151n 0 671.160101n 0 672.160101n 1.8 673.118879n 1.8
+ 674.118879n 0 675.077658n 0 676.077658n 1.8 677.030996n 1.8
+ 678.030996n 0 678.984334n 0 679.984334n 1.8 680.941414n 1.8
+ 681.941414n 0 682.898494n 0 683.898494n 1.8 684.855704n 1.8
+ 685.855704n 0 686.812915n 0 687.812915n 1.8 688.779570n 1.8
+ 689.779570n 0 690.746225n 0 691.746225n 1.8 692.708637n 1.8
+ 693.708637n 0 694.671049n 0 695.671049n 1.8 696.636525n 1.8
+ 697.636525n 0 698.602000n 0 699.602000n 1.8 700.556517n 1.8
+ 701.556517n 0 702.511034n 0 703.511034n 1.8 704.457523n 1.8
+ 705.457523n 0 706.404012n 0 707.404012n 1.8 708.370566n 1.8
+ 709.370566n 0 710.337120n 0 711.337120n 1.8 712.290411n 1.8
+ 713.290411n 0 714.243703n 0 715.243703n 1.8 716.199122n 1.8
+ 717.199122n 0 718.154540n 0 719.154540n 1.8 720.094770n 1.8
+ 721.094770n 0 722.034999n 0 723.034999n 1.8 723.987322n 1.8
+ 724.987322n 0 725.939645n 0 726.939645n 1.8 727.902051n 1.8
+ 728.902051n 0 729.864457n 0 730.864457n 1.8 731.820727n 1.8
+ 732.820727n 0 733.776997n 0 734.776997n 1.8 735.746342n 1.8
+ 736.746342n 0 737.715686n 0 738.715686n 1.8 739.671191n 1.8
+ 740.671191n 0 741.626695n 0 742.626695n 1.8 743.571946n 1.8
+ 744.571946n 0 745.517197n 0 746.517197n 1.8 747.479404n 1.8
+ 748.479404n 0 749.441612n 0 750.441612n 1.8 751.401057n 1.8
+ 752.401057n 0 753.360502n 0 754.360502n 1.8 755.329599n 1.8
+ 756.329599n 0 757.298696n 0 758.298696n 1.8 759.274920n 1.8
+ 760.274920n 0 761.251143n 0 762.251143n 1.8 763.219626n 1.8
+ 764.219626n 0 765.188109n 0 766.188109n 1.8 767.150722n 1.8
+ 768.150722n 0 769.113335n 0 770.113335n 1.8 771.078265n 1.8
+ 772.078265n 0 773.043196n 0 774.043196n 1.8 775.010382n 1.8
+ 776.010382n 0 776.977569n 0 777.977569n 1.8 778.935215n 1.8
+ 779.935215n 0 780.892861n 0 781.892861n 1.8 782.851574n 1.8
+ 783.851574n 0 784.810287n 0 785.810287n 1.8 786.750267n 1.8
+ 787.750267n 0 788.690247n 0 789.690247n 1.8 790.677398n 1.8
+ 791.677398n 0 792.664549n 0 793.664549n 1.8 794.634076n 1.8
+ 795.634076n 0 796.603603n 0 797.603603n 1.8 798.555458n 1.8
+ 799.555458n 0 800.507313n 0 801.507313n 1.8 802.467732n 1.8
+ 803.467732n 0 804.428151n 0 805.428151n 1.8 806.390945n 1.8
+ 807.390945n 0 808.353738n 0 809.353738n 1.8 810.311563n 1.8
+ 811.311563n 0 812.269387n 0 813.269387n 1.8 814.229784n 1.8
+ 815.229784n 0 816.190181n 0 817.190181n 1.8 818.164711n 1.8
+ 819.164711n 0 820.139241n 0 821.139241n 1.8 822.095041n 1.8
+ 823.095041n 0 824.050841n 0 825.050841n 1.8 826.010258n 1.8
+ 827.010258n 0 827.969674n 0 828.969674n 1.8 829.926122n 1.8
+ 830.926122n 0 831.882570n 0 832.882570n 1.8 833.862298n 1.8
+ 834.862298n 0 835.842026n 0 836.842026n 1.8 837.795279n 1.8
+ 838.795279n 0 839.748532n 0 840.748532n 1.8 841.711881n 1.8
+ 842.711881n 0 843.675230n 0 844.675230n 1.8 845.641575n 1.8
+ 846.641575n 0 847.607920n 0 848.607920n 1.8 849.559522n 1.8
+ 850.559522n 0 851.511124n 0 852.511124n 1.8 853.474581n 1.8
+ 854.474581n 0 855.438037n 0 856.438037n 1.8 857.400909n 1.8
+ 858.400909n 0 859.363781n 0 860.363781n 1.8 861.336165n 1.8
+ 862.336165n 0 863.308550n 0 864.308550n 1.8 865.262259n 1.8
+ 866.262259n 0 867.215969n 0 868.215969n 1.8 869.152139n 1.8
+ 870.152139n 0 871.088309n 0 872.088309n 1.8 873.035019n 1.8
+ 874.035019n 0 874.981729n 0 875.981729n 1.8 876.951259n 1.8
+ 877.951259n 0 878.920788n 0 879.920788n 1.8 880.868552n 1.8
+ 881.868552n 0 882.816316n 0 883.816316n 1.8 884.778338n 1.8
+ 885.778338n 0 886.740360n 0 887.740360n 1.8 888.699425n 1.8
+ 889.699425n 0 890.658490n 0 891.658490n 1.8 892.614421n 1.8
+ 893.614421n 0 894.570352n 0 895.570352n 1.8 896.527320n 1.8
+ 897.527320n 0 898.484287n 0 899.484287n 1.8 900.453858n 1.8
+ 901.453858n 0 902.423429n 0 903.423429n 1.8 904.386009n 1.8
+ 905.386009n 0 906.348590n 0 907.348590n 1.8 908.311907n 1.8
+ 909.311907n 0 910.275224n 0 911.275224n 1.8 912.224575n 1.8
+ 913.224575n 0 914.173925n 0 915.173925n 1.8 916.141204n 1.8
+ 917.141204n 0 918.108483n 0 919.108483n 1.8 920.067196n 1.8
+ 921.067196n 0 922.025909n 0 923.025909n 1.8 923.967954n 1.8
+ 924.967954n 0 925.909999n 0 926.909999n 1.8 927.881027n 1.8
+ 928.881027n 0 929.852055n 0 930.852055n 1.8 931.816110n 1.8
+ 932.816110n 0 933.780165n 0 934.780165n 1.8 935.719446n 1.8
+ 936.719446n 0 937.658728n 0 938.658728n 1.8 939.620721n 1.8
+ 940.620721n 0 941.582713n 0 942.582713n 1.8 943.523682n 1.8
+ 944.523682n 0 945.464650n 0 946.464650n 1.8 947.421486n 1.8
+ 948.421486n 0 949.378322n 0 950.378322n 1.8 951.326055n 1.8
+ 952.326055n 0 953.273788n 0 954.273788n 1.8 955.245111n 1.8
+ 956.245111n 0 957.216433n 0 958.216433n 1.8 959.176128n 1.8
+ 960.176128n 0 961.135823n 0 962.135823n 1.8 963.091507n 1.8
+ 964.091507n 0 965.047191n 0 966.047191n 1.8 967.015680n 1.8
+ 968.015680n 0 968.984170n 0 969.984170n 1.8 970.949547n 1.8
+ 971.949547n 0 972.914924n 0 973.914924n 1.8 974.882608n 1.8
+ 975.882608n 0 976.850292n 0 977.850292n 1.8 978.837676n 1.8
+ 979.837676n 0 980.825060n 0 981.825060n 1.8 982.767780n 1.8
+ 983.767780n 0 984.710501n 0 985.710501n 1.8 986.661475n 1.8
+ 987.661475n 0 988.612450n 0 989.612450n 1.8 990.567234n 1.8
+ 991.567234n 0 992.522019n 0 993.522019n 1.8 994.492203n 1.8
+ 995.492203n 0 996.462388n 0 997.462388n 1.8 998.415205n 1.8
+ 999.415205n 0 1000.368022n 0 1001.368022n 1.8 1002.327538n 1.8
+ 1003.327538n 0 1004.287055n 0 1005.287055n 1.8 1006.239407n 1.8
+ 1007.239407n 0 1008.191760n 0 1009.191760n 1.8 1010.157834n 1.8
+ 1011.157834n 0 1012.123908n 0 1013.123908n 1.8 1014.076223n 1.8
+ 1015.076223n 0 1016.028538n 0 1017.028538n 1.8 1017.993967n 1.8
+ 1018.993967n 0 1019.959396n 0 1020.959396n 1.8 1021.913175n 1.8
+ 1022.913175n 0 1023.866954n 0 1024.866954n 1.8 1025.824623n 1.8
+ 1026.824623n 0 1027.782292n 0 1028.782292n 1.8 1029.735882n 1.8
+ 1030.735882n 0 1031.689473n 0 1032.689473n 1.8 1033.646846n 1.8
+ 1034.646846n 0 1035.604219n 0 1036.604219n 1.8 1037.567072n 1.8
+ 1038.567072n 0 1039.529926n 0 1040.529926n 1.8 1041.485882n 1.8
+ 1042.485882n 0 1043.441838n 0 1044.441838n 1.8 1045.395508n 1.8
+ 1046.395508n 0 1047.349178n 0 1048.349178n 1.8 1049.291821n 1.8
+ 1050.291821n 0 1051.234464n 0 1052.234464n 1.8 1053.212496n 1.8
+ 1054.212496n 0 1055.190529n 0 1056.190529n 1.8 1057.141097n 1.8
+ 1058.141097n 0 1059.091665n 0 1060.091665n 1.8 1061.037809n 1.8
+ 1062.037809n 0 1062.983953n 0 1063.983953n 1.8 1064.951630n 1.8
+ 1065.951630n 0 1066.919306n 0 1067.919306n 1.8 1068.885430n 1.8
+ 1069.885430n 0 1070.851554n 0 1071.851554n 1.8 1072.806077n 1.8
+ 1073.806077n 0 1074.760599n 0 1075.760599n 1.8 1076.719927n 1.8
+ 1077.719927n 0 1078.679255n 0 1079.679255n 1.8 1080.640285n 1.8
+ 1081.640285n 0 1082.601315n 0 1083.601315n 1.8 1084.552044n 1.8
+ 1085.552044n 0 1086.502774n 0 1087.502774n 1.8 1088.460018n 1.8
+ 1089.460018n 0 1090.417263n 0 1091.417263n 1.8 1092.377585n 1.8
+ 1093.377585n 0 1094.337907n 0 1095.337907n 1.8 1096.296748n 1.8
+ 1097.296748n 0 1098.255588n 0 1099.255588n 1.8 1100.209673n 1.8
+ 1101.209673n 0 1102.163758n 0 1103.163758n 1.8 1104.121425n 1.8
+ 1105.121425n 0 1106.079091n 0 1107.079091n 1.8 1108.058364n 1.8
+ 1109.058364n 0 1110.037638n 0 1111.037638n 1.8 1112.001512n 1.8
+ 1113.001512n 0 1113.965386n 0 1114.965386n 1.8 1115.928675n 1.8
+ 1116.928675n 0 1117.891964n 0 1118.891964n 1.8 1119.840424n 1.8
+ 1120.840424n 0 1121.788883n 0 1122.788883n 1.8 1123.744212n 1.8
+ 1124.744212n 0 1125.699541n 0 1126.699541n 1.8 1127.648691n 1.8
+ 1128.648691n 0 1129.597841n 0 1130.597841n 1.8 1131.563187n 1.8
+ 1132.563187n 0 1133.528534n 0 1134.528534n 1.8 1135.497578n 1.8
+ 1136.497578n 0 1137.466622n 0 1138.466622n 1.8 1139.417752n 1.8
+ 1140.417752n 0 1141.368882n 0 1142.368882n 1.8 1143.322121n 1.8
+ 1144.322121n 0 1145.275359n 0 1146.275359n 1.8 1147.222021n 1.8
+ 1148.222021n 0 1149.168682n 0 1150.168682n 1.8 1151.130254n 1.8
+ 1152.130254n 0 1153.091826n 0 1154.091826n 1.8 1155.046467n 1.8
+ 1156.046467n 0 1157.001108n 0 1158.001108n 1.8 1158.971106n 1.8
+ 1159.971106n 0 1160.941104n 0 1161.941104n 1.8 1162.885648n 1.8
+ 1163.885648n 0 1164.830193n 0 1165.830193n 1.8 1166.781739n 1.8
+ 1167.781739n 0 1168.733286n 0 1169.733286n 1.8 1170.698313n 1.8
+ 1171.698313n 0 1172.663341n 0 1173.663341n 1.8 1174.631671n 1.8
+ 1175.631671n 0 1176.600000n 0 1177.600000n 1.8 1178.558500n 1.8
+ 1179.558500n 0
+ )


** sky130 PDK model include (tt corner) -- patched per-point by sim/harness.
** No device in this testbench uses it: it is here so the harness's own
** corner substitution and this record's environment provenance are the same
** as every other campaign's. See this file's header comment.
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice tt
** No .tran/.print card here on purpose -- sim/harness/measure.py injects the
** analysis from this manifest's own measure block.

**** end user architecture code
**.ends
.GLOBAL GND
.end
